US04613463
17α-hydroxy-20-phenoxypregna-4,9(11),20-trien-3-one (4.05 grams, 10 mmoles) is slurried with 210 ml of an aqueous pH 8 potassium phosphate buffer (0.5M in PO4 ≡), 20 ml of acetone, 40 ml of toluene/methylene chloride (3:2) and n-tetrabutylammonium bromide is (0.645 grams, 2.0 mmole) added. The pH is adjusted to 7.0 to 8.0 and the mixture cooled to 15° C. and an OXONE® solution is (18.4 gms, 30 mmoles dissolved in 65 ml of water) added dropwise by an addition funnel while stirring and maintaining pH at 7.0 to 8.0 by addition of a 30% potassium hydroxide solution. The reaction is worked up by separating the layers and replacing the organic solvent with toluene to a volume of 100 ml so as to remove water. After cooling to 10° C., 3 ml of glacial acetic acid is added. The product is isolated by replacing the toluene with acetone and filtering to obtain 3.12 g of 17α-hydroxy-21-acetoxypregna-4,9(11)-diene-3,20-dione.

reactant | 17α-hydroxy-20-phenoxypregna-4,9(11),20-trien-3-one | 10 mmoles, 4.05 grams | O[C@]1(C(=C)OC2=CC=CC=C2)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C27H32O3
reactant | potassium phosphate | 0.5M, pH 8 | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | acetone | CC(=O)C | C3H6O
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 65 ml | O | H2O
solvent | toluene methylene chloride | 40 ml | C1(=CC=CC=C1)C.C(Cl)Cl
product | 17α-hydroxy-21-acetoxypregna-4,9(11)-diene-3,20-dione | 3.12 g | O[C@]1(C(COC(C)=O)=O)CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)C3=CC[C@]12C)=O | C23H30O5
